US09216991B2
Step 2: Formation of Methyl [8-(nitromethyl)-1,4-dioxaspiro[4.5]dec-8-yl]acetate
A solution of Methyl 1,4-dioxaspiro[4.5]dec-8-ylideneacetate (4 g, 18.8 mmol) in dry THF (20 mL) was treated by nitromethane (1.5 mL, 28.3 mmol) followed by tertbutylammonium fluoride (18.8 mLot a 1M solution in THF, 0.0188 mol). The resulting mixture was stirred at reflux for 18 h under nitrogen. After cooling to RT, the mixture was diluted with water and extracted with MTBE (3×100 mL). Combined organic layers were washed with 10% sodium bicarbonate solution (20 mL), water (100 mL) and brine (50 mL), dried over sodium sulphate filtered and concentrated. Purification by flash chromatography on silica (Pet.Ether:EtOAc) afforded the title compound as a colorless liquid (2.5 g, 49%). 1H NMR (400 MHz, DMSO) δ 4.7 (s, 2H), 3.94 (s, 4H), 3.69 (s, 3H), 2.57 (s, 2H), 1.74 (m, 8H).

reactant | Methyl 1,4-dioxaspiro[4.5]dec-8-ylideneacetate | 18.8 mmol, 4 g | O1CCOC12CCC(CC2)=CC(=O)OC | C11H16O4
reactant | nitromethane | 28.3 mmol, 1.5 mL | [N+](=O)([O-])C | CH3NO2
reactant | tertbutylammonium fluoride | [F-].C(C)(C)(C)[NH3+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Methyl [8-(nitromethyl)-1,4-dioxaspiro[4.5]dec-8-yl]acetate | 2.5 g, 49% | [N+](=O)([O-])CC1(CCC2(OCCO2)CC1)CC(=O)OC | C12H19NO6
